US08754226B2
A stirred solution of (S)-3-(2,5-difluoro-4-(methylsulfonyl)phenoxy)-[1,4′-bipiperidin]-2-one (Preparation G; 40 mg, 0.103 mmol), DIEA (90 μL, 0.515 mmol), and 2,5-dichloropyrazine (30.7 mg, 0.206 mmol) in DMF (1 mL) was heated at 100° C. in a sealed tube for 2 hours. The mixture was cooled, diluted with EtOAc (25 mL), washed with brine, dried over Na2SO4 and concentrated in vacuo. The residue was purified by preparative TLC (EtOAc/DCM 4:1) to afford (S)-1′-(5-chloropyrazin-2-yl)-3-(2,5-difluoro-4-(methylsulfonyl)phenoxy)-[1,4′-bipiperidin]-2-one (2 mg, 0.004 mmol, 4% yield) as a white solid. Mass spectrum (apci) m/z=501.1 (M+H).

reactant | (S)-3-(2,5-difluoro-4-(methylsulfonyl)phenoxy)-[1,4′-bipiperidin]-2-one | 0.103 mmol, 40 mg | FC1=C(O[C@@H]2C(N(CCC2)C2CCNCC2)=O)C=C(C(=C1)S(=O)(=O)C)F | C17H22F2N2O4S
reactant | DIEA | 0.515 mmol, 90 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2,5-dichloropyrazine | 0.206 mmol, 30.7 mg | ClC1=NC=C(N=C1)Cl | C4H2Cl2N2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
product | (S)-1′-(5-chloropyrazin-2-yl)-3-(2,5-difluoro-4-(methylsulfonyl)phenoxy)-[1,4′-bipiperidin]-2-one | 0.004 mmol, 2 mg, 4% yield | ClC=1N=CC(=NC1)N1CCC(CC1)N1C([C@H](CCC1)OC1=C(C=C(C(=C1)F)S(=O)(=O)C)F)=O | C21H23ClF2N4O4S
